US05051436
3. preparation of benzo-1,2,3-thiadiazole-7-carboxylic acid amide (intermediate product)
In an autoclave, under pressure and at room temperature, 17 g of ammonia ispassed into a solution of 19.4 g of benzo-1,2,3-thiadiazole-7-carboxylic acid methyl ester in 70 ml of tetrahydrofuran. The solution is then heatedand maintained at 80°-90° C. for approximately 20 hours, an internal pressure of 55·105Pa max. building up. Partial concentration by evaporation is then carried out and the resulting precipitate is filtered off, washed with cold tetrahydrofuran and dried. 14.9 g of beige crystals having a melting point of 270°-272°C. are obtained.

reactant | ammonia | 17 g | N | H3N
reactant | benzo-1,2,3-thiadiazole-7-carboxylic acid methyl ester | 19.4 g | COC(=O)C1=CC=CC=2N=NSC21 | C8H6N2O2S
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | benzo-1,2,3-thiadiazole-7-carboxylic acid amide | S1N=NC2=C1C(=CC=C2)C(=O)N | C7H5N3OS
